US04017490
A mixture of 2 g. ethyl 5-hydroxy-6-phenylpyridine3,4-dicarboxylate. hydrochloride, 40 ml ethanol and 4 ml hydrazine hydrate was refluxed for 4 hours. After cooling, the pale yellow crystals were recovered by filtration, suspended in 20 ml of water and made acid with dilute hydrochloric acid. The crystals were recovered by filtration, rinsed with water and dried. The procedure provided 1.2 g of 8-hydroxy-7-phenylpyrido[3,4-d]pyridazine-1,4-(2H,3H)-dione, melting point: more than 300° C.

reactant | ethyl 5-hydroxy-6-phenylpyridine3,4-dicarboxylate. hydrochloride | Cl.OC=1C(=C(C=NC1C1=CC=CC=C1)C(=O)OCC)C(=O)O
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-hydroxy-7-phenylpyrido[3,4-d]pyridazine-1,4-(2H,3H)-dione | 1.2 g | OC1=C(N=CC=2C(NNC(C21)=O)=O)C2=CC=CC=C2 | C13H9N3O3
